US07531560B2
A solution of 2-formyl-3-oxo-propionic acid ethyl ester (S. H. Bertz et al., J. Org. Chem., 1982, 47, 2216) (1.44 g, 10 mmol) in EtOH (10 mL) was cooled in an ice bath. A slurry of 3-hydrazino-4-methyl-benzoic acid hydrochloride (2.02 g, 10 mmol) in EtOH (50 mL) was added and the reaction was stirred overnight. The EtOH was removed under reduced pressure and the residue partitioned between water and CH2Cl2. The layers were separated and the organic layer washed with brine. The organic layer was dried over Na2SO4, filtered, and concentrated. Hexanes were added and the solution concentrated. The resulting solid was collected by vacuum filtration, washed with hexanes and dried under vacuum to provide 1-(5-carboxy-2-methyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester (1.86 g, 68%) as a yellow solid: ESI MS m/z 275 [C14H14N2O4+H]+.

reactant | 2-formyl-3-oxo-propionic acid ethyl ester | 10 mmol, 1.44 g | C(C)OC(C(C=O)C=O)=O | C6H8O4
reactant | 3-hydrazino-4-methyl-benzoic acid hydrochloride | 10 mmol, 2.02 g | Cl.N(N)C=1C=C(C(=O)O)C=CC1C
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOH | 50 mL | CCO | C2H6O
product | 1-(5-carboxy-2-methyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 1.86 g, 68% | C(C)OC(=O)C=1C=NN(C1)C1=C(C=CC(=C1)C(=O)O)C | C14H14N2O4
